US08497265B2
Step 2. Tert-Butyl 4-(4-((1-(Quinolin-2-yl)Azetidin-3-yl)Oxy)Pyrimidin-5-yl)Piperidine-1-Carboxylate
To a solution of tert-butyl 4-(2-chloro-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (472 mg, 0.95 mmol) in MeOH (10 mL) was added Pd/C (10%, 200 mg). The reaction solution was stirred at room temperature overnight under H2 atmosphere. The mixture was filtered through CELITE® and concentrated to give the product (307 mg, 0.66 mmol, yield: 78%). ESI-MS (M+1): 462 calc. for C26H31N5O3 461.

reactant | tert-butyl 4-(2-chloro-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.95 mmol, 472 mg | ClC1=NC=C(C(=N1)OC1CN(C1)C1=NC2=CC=CC=C2C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C | C26H28ClN5O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | Tert-Butyl 4-(4-((1-(Quinolin-2-yl)Azetidin-3-yl)Oxy)Pyrimidin-5-yl)Piperidine-1-Carboxylate | 0.66 mmol, 307 mg, yield: 78% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC1=NC=NC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C26H31N5O3
